US05744621
12-1) Preparation of 2-(methylaminomethyl) pyridine
Methylamine gas was bubbled through the benzene solution(60 ml) of 10.7 g(100 mmol) of 2-pyridinecarboxaldehyde for 2 hours. Benzene was distilledoff under a reduced pressure and the residue was taken up in 40 ml of ethanol. To the resulting solution was added 5.7 g of NaBH4 in three portions and the resulting mixture was stirred at room temperature for 8 hours. To the reaction mixture was added 0.5N hydrochloric acid with care not to allow the pH below 6. 300 ml of dichloromethane was added thereto and the resulting solution was washed three times with 1M NaHCO3 solution of pH 10. The organic layer was concentrated under a reduced pressure to give 10.4 g of the title compound(yield: 85%).

reactant | Methylamine | CN | CH5N
reactant | 2-pyridinecarboxaldehyde | 100 mmol, 10.7 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | NaBH4 | 5.7 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | Benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-(methylaminomethyl) pyridine | 10.4 g, yield: 85% | CNCC1=NC=CC=C1 | C7H10N2
